* Auto-generated SPICE netlist (NO TEXT OCR USED)

R1 n2 n4 1k
R2 n1 n2 1k
R3 n4 n6 1k
R4 n2 0 1k
R5 0 n3 1k
R6 n6 n5 1k
R7 n4 0 1k
R8 0 n6 1k
R9 0 n5 1k
R10 n3 n5 1k

* --- design-intent repair (does not change topology) ---
Rshunt_n1 n1 0 1e+09

.op
.end
